US07851622B2
To a solution of 5-(4-chlorophenyl)thiophene-2-carboxylic acid (890 mg, 3.73 mmol) in anhydrous THF (40 ml) under N2 at −78° C. was added a solution of 1.6 M n-butyllithium in hexane (5.83 ml, 9.32 mmol). The reaction was allowed to warmed to 0° C. over 3 hours whereupon the solution was cooled to −78° C. prior to addition of DMF (2.89 ml, 37.3 mmol). After stirring the mixture at −50° C. for 2 hours, the reaction was quenched with aqueous 1 N HCl (20 ml) prior to extraction with EtOAc (40 ml). The EtOAc extracts were dried over Na2SO4 and concentrated to give light brown solid. Following dissolution of the brown solid in MeOH (20 ml), hydrazine (0.351 ml, 11.19 mmol) was added, followed by conc HCl (1 ml). The mixture was stirred at reflux for 2 days; whereupon after cooling to RT, the mixture was diluted with a solution of saturated NaHCO3 (15 ml). The resulting precipitate was collected by filtration, washed with water and EtOAc to yield after drying 2-(4-chlorophenyl)thieno[3,2-d]pyridazin-7(6H)-one (860 mg, 3.28 mmol, 87% yield) as brown solid. LC MS at t=2.25 min. (m+H=263) Phenomenex S5 C18 4.6×30 mm column/water-MeOH-TFA 90:10:0.1 to 10:90:0.1 gradient over 2 min at 5 mL/min with 1 min hold at the end of the gradient. 1H NMR (400 MHz, DMSO) δ ppm 7.59 (d, J=8.56 Hz, 2H), 7.88 (d, J=8.56 Hz, 2H), 7.99 (s, 1H), 8.40 (s, 1H), 12.99 (s, 1H)

reactant | 5-(4-chlorophenyl)thiophene-2-carboxylic acid | 3.73 mmol, 890 mg | ClC1=CC=C(C=C1)C1=CC=C(S1)C(=O)O | C11H7ClO2S
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | hexane | 9.32 mmol, 5.83 ml | CCCCCC | C6H14
reactant | DMF | 37.3 mmol, 2.89 ml | CN(C)C=O | C3H7NO
reactant | hydrazine | 11.19 mmol, 0.351 ml | NN | H4N2
reactant | HCl | 1 ml | Cl | ClH
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | MeOH | 20 ml | CO | CH4O
solvent | NaHCO3 | 15 ml | C(=O)(O)[O-].[Na+]
product | 2-(4-chlorophenyl)thieno[3,2-d]pyridazin-7(6H)-one | 3.28 mmol, 860 mg, 87% yield | ClC1=CC=C(C=C1)C1=CC=2C=NNC(C2S1)=O | C12H7ClN2OS
